US08629270B2
1-(2-Chloro-5-fluoro-pyrimidin-4-yl)ethanone
A solution of 5-fluoro-2,4-dichloro-pyrimidine (20 g, 119.8 mmol) and (1-ethoxyethenyl)trimethylstannane (43.26 g, 119.8 mmol) in dimethylformamide (200 mL) is purged at room temperature with nitrogen and bis(triphenylphosphine)palladium(II) chloride (1.70 g, 2.40 mmol) is then added. The resulting mixture is heated at 70° C. for 2 hours under nitrogen. The reaction is cooled to 50° C. and aqueous 5 N hydrogen chloride (100 mL) is added. The reaction is stirred at 50° C. for two more hours. The reaction is cooled, diluted with water (200 mL) and brine. This solution is extracted five times with diethyl ether. The combined organic layers are dried over sodium sulfate and concentrated under vacuum. The crude product is purified over silica gel with a 30 minute, 5% to 50% ethyl acetate in hexanes gradient, to give the title compound (19.2 g, 92%). GC/MS (m/e): (35Cl/37Cl) 174/176.

reactant | 5-fluoro-2,4-dichloro-pyrimidine | 119.8 mmol, 20 g | FC=1C(=NC(=NC1)Cl)Cl | C4HCl2FN2
reactant | (1-ethoxyethenyl)trimethylstannane | 119.8 mmol, 43.26 g | C(C)OC(=C)[Sn](C)(C)C
reactant | hydrogen chloride | 5 N, 100 mL | Cl | ClH
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.40 mmol, 1.70 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2-Chloro-5-fluoro-pyrimidin-4-yl)ethanone | 19.2 g, 92% | ClC1=NC=C(C(=N1)C(C)=O)F | C6H4ClFN2O
